US08048884B2
Preparation 16: N-[2-(3′-Chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-N-methyl-benzenesulfonamide
Dissolve [2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-methyl-amine dihydrochloride salt (2.0 g, 6.09 mmol) in dichloromethane (50 mL). Add triethylamine (3.39 mL, 24.4 mmol), and benzenesulfonylchloride (854 μL, 6.69 mmol). Stir at ambient temperature for 18 hr. Add dichloromethane and aqueous 1 N HCl solution. Separate the organic layer and extract the aqueous layer twice with dichloromethane. Combine the organic layers and dry (magnesium sulfate), filter, and concentrate. Purify via SCX chromatography, followed by silica gel chromatography (100:0 to 0:100 hexanes:ethyl acetate) to give the title preparation (1.88 g, 78%). MS (ES): m/z=396 [M+H]+.

reactant | [2-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-methyl-amine dihydrochloride salt | 6.09 mmol, 2.0 g | Cl.Cl.ClC=1C(=NC=CN1)N1CCN(CC1)CCNC
reactant | triethylamine | 24.4 mmol, 3.39 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonylchloride | 6.69 mmol, 854 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | HCl | 1 N | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[2-(3′-Chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl)-ethyl]-N-methyl-benzenesulfonamide | ClC=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C1=CC=CC=C1)C | C17H22ClN5O2S
